US04539324
1-[(2-Methylthio-4-methylpyrimidin-5-yl)methyloxy]methyl-5-chloropyrimidin-2-one
2-Methylthio-4-methyl-5-(chloromethyloxymethyl)pyrimidine (see Preparation 11) (2.7 mmol) in dichloromethane (5 ml) was added dropwise with stirring at room temperature to a solution of 5-chloropyrimidin-2-one hydrochloride (2.7 mmol) and triethylamine in dichloromethane (0.76 ml). The mixture was stirred for 24 hours at room temperature before the solvent was distilled off. The residue was triturated with water, extracted into chloroform and the dried (MgSO4) solution evaporated. yield 0.55 g (65%). 1H NMR (CDCl3): δ2.42 (4-Me), 2.55 (SMe), 4.65 (CH2Pyr), 5.32 (CH2O), 7.80 and 8.42 (H-4, H-6, J 3 Hz), 8.20 (H-6').

reactant | 2-Methylthio-4-methyl-5-(chloromethyloxymethyl)pyrimidine | 2.7 mmol | CSC1=NC=C(C(=N1)C)COCCl | C8H11ClN2OS
reactant | 5-chloropyrimidin-2-one hydrochloride | 2.7 mmol | Cl.ClC=1C=NC(NC1)=O
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 0.76 ml | ClCCl | CH2Cl2
product | 1-[(2-Methylthio-4-methylpyrimidin-5-yl)methyloxy]methyl-5-chloropyrimidin-2-one | CSC1=NC=C(C(=N1)C)COCN1C(N=CC(=C1)Cl)=O | C12H13ClN4O2S
